US06949552B2
0.30 g of 1-[2-(4-Fluorophenyl)-2-(4-methylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine was dissolved in 4 ml of methanol, and 1 ml of 4M hydrogen chloride/ethyl acetate solution was added. The solution was concentrated under reduced pressure, and the resulting solid was washed with methanol to give 1-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride (0.20 g).

reactant | 1-[2-(4-Fluorophenyl)-2-(4-methylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine | 0.30 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCN(CC1)C | C31H41FN4
reactant | hydrogen chloride ethyl acetate | 4M, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
product | 1-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride | 0.20 g | Cl.Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCN(CC1)C | InChI=1S/C31H41FN4.4ClH/c1-33-17-23-36(24-18-33)31(28-12-14-29(32)15-13-28)25-35-21-19-34(20-22-35)16-5-4-8-27-10-6-9-26-7-2-3-11-30(26)27;;;;/h2-3,6-7,9-15,31H,4-5,8,16-25H2,1H3;4*1H
